US04362716
Isobutyl chloroformate (2.54 cc) is added to a solution, kept at 0° C., of lauric acid (3.9 g) in anhydrous toluene (156 cc) and triethylamine (2.7 cc). The mixture is stirred for 20 minutes at 0° C. and a solution, cooled to 0° C., of benzyl L-alanyl-D-isoglutaminate hydrochloride (6.7 g) in water (52 cc) and triethylamine (2.7 cc) is then added. The reaction mixture is stirred for 65 hours at a temperature of the order of 20° C. to yield a reaction mixture of gelatinous appearance, to which ethyl acetate (150 cc) is added. The precipitate is filtered off, washed with water (30 cc) and then dried to yield benzyl N-lauroyl-L-alanyl-D-isoglutaminate (7.6 g) in the form of a white powder. The aqueous phase of the above filtrate is extracted twice with ethyl acetate (100 cc in total), the ethyl acetate phase is combined with the organic phase of the filtrate and the combined phase is washed with 0.1 N hydrochloric acid (125 cc) and water (120 cc), dried over magnesium sulphate and then concentrated to dryness under reduced pressure (20 mm Hg) at 50° C. to yield a further 1.5 g of benzyl N-lauroyl-L-alanyl-D-isoglutaminate. The product (7.6 g and 1.5 g) is recrystallized from methanol (120 cc) to yield benzyl N-lauroyl-L-alanyl-D-isoglutaminate (6.6 g) which melts at 169° C.

reactant | Isobutyl chloroformate | 2.54 cc | ClC(=O)OCC(C)C | C5H9ClO2
reactant | lauric acid | 3.9 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | benzyl L-alanyl-D-isoglutaminate hydrochloride | 6.7 g | Cl.N[C@@H](C)C(=O)N[C@H](CCC(=O)OCC1=CC=CC=C1)C(N)=O
reactant | ethyl acetate | 150 cc | C(C)(=O)OCC | C4H8O2
solvent | toluene | 156 cc | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2.7 cc | C(C)N(CC)CC | C6H15N
solvent | water | 52 cc | O | H2O
solvent | triethylamine | 2.7 cc | C(C)N(CC)CC | C6H15N
product | benzyl N-lauroyl-L-alanyl-D-isoglutaminate | 7.6 g | C(CCCCCCCCCCC)(=O)N[C@@H](C)C(=O)N[C@H](CCC(=O)OCC1=CC=CC=C1)C(N)=O | C27H43N3O5
